* H07: one U4 positive-rail series element becomes high resistance.
* RAPS is the extracted APBEAD--U4 positive branch element; only this value
* changes.  The local source impedance and C15/C11/C16/C10/C12 remain.
* Official TI OPA1656 + OPA548, J2=+/-10 V, J1=+/-5 V, E/S OFF.
.include "../../../实际遇到的问题/opa548_shutdown_branch_spice_20260904/models/OPA548.LIB"
.include "../../../实际遇到的问题/opa548_shutdown_branch_spice_20260904/models/OPA1656.LIB"
.param TEMP=27 RFAULT=3.5586m
.options method=gear reltol=2e-4 abstol=1e-11 vntol=1e-8 gmin=1e-12 rshunt=1e12 maxord=2

* AGND/PGND bridge and extracted U4/J2 supply path.  Fixed sources match the
* declared fixed-bias hypothesis.  Power-up sequencing is outside this deck.
VAG AGND 0 0
RG3 AGND G3M 5m
LG3 G3M PGND 2n
VJ2P J2P AGND 10
RFBP J2P FBP 0.25
LFBP FBP APBEAD 240n
RAPS APBEAD APSM {RFAULT}
LAPS APSM APU4 2.9988n
RC15T APU4 C15TM 28.715m
LC15T C15TM C15N 9.303n
CC15TA APU4 AGND 0.77525p
CC15TB C15N AGND 0.77525p
C15 C15N AGND 100n
RC11T APU4 C11TM 49.5m
LC11T C11TM C11N 19.8n
CC11TA APU4 AGND 1.65p
CC11TB C11N AGND 1.65p
C11 C11N AGND 1u
VJ2N J2N AGND -10
RFBN J2N FBN 0.25
LFBN FBN ANBEAD 240n
RANS ANBEAD ANSM 49.93m
LANS ANSM ANU4 20.106n
RC16T ANU4 C16TM 43.775m
LC16T C16TM C16N 16.6236n
CC16TA ANU4 AGND 1.3853p
CC16TB C16N AGND 1.3853p
C16 C16N AGND 100n
RC10T ANU4 C10TM 46.639m
LC10T C10TM C10N 17.9382n
CC10TA ANU4 AGND 1.49485p
CC10TB C10N AGND 1.49485p
C10 C10N AGND 100n
RC12T ANU4 C12TM 49.318m
LC12T C12TM C12N 19.215n
CC12TA ANU4 AGND 1.60125p
CC12TB C12N AGND 1.60125p
C12 C12N AGND 1u

* Both OPA1656 channels share the nonideal rails.
VUA U4AP AGND 0
R13 U4AN AGND 1k
R14 U4AO U4AN 49.9k
XU4A U4AP U4AN APU4 ANU4 U4AO OPA1656
RU4AL U4AO AGND 100k
VINPUT SRC AGND PULSE(0 1m 10u 20n 20n 2u 1)
RIN SRC U4P 100
CIN U4P AGND 2p
XU4B U4P U4N APU4 ANU4 U4O OPA1656

* Extracted U4B feedback route; C39 remains DNP pad capacitance.
ROR16 U4O OR16M 5.380m
LOR16 OR16M R16O 4.1652n
COR16A U4O AGND 0.3471p
COR16B R16O AGND 0.3471p
RNR16 U4N NR16M 5.780m
LNR16 NR16M R16N 4.4694n
CNR16A U4N AGND 0.37245p
CNR16B R16N AGND 0.37245p
RNR15 U4N NR15M 6.723m
LNR15 NR15M R15N 5.6334n
CNR15A U4N AGND 0.46945p
CNR15B R15N AGND 0.46945p
R16 R16O R16N 39k
R15 R15N AGND 1k
CDNP14 R16O R16N 0.05p
CDNP37 R16O R16N 0.05p
CDNP38 R16O R16N 0.05p
CDNP39 R16O R16N 0.05p
CDNP40 R16O R16N 0.05p
CDNP41 R16O R16N 0.05p

* TP8 is before populated R5.  OPA548 is the official OFF model.
RTP8 U4O TP8 1m
RTP8P TP8 AGND 10Meg
RVR5 U4O VR5M 59.938m
LVR5 VR5M R5V 35.2578n
CVR5A U4O AGND 2.93815p
CVR5B R5V AGND 2.93815p
R5 R5V OPA_P 100

* J1 rails include lead inductance and local bulk/high-frequency capacitors.
VPPS PP_SRC PGND 5
RPSRC PP_SRC PPRE 20m
LPP PPRE PWR_P 0.2u
RPP PWR_P PWR_PM 50m
C5 PWR_PM PGND 470u
C7 PWR_PM PGND 100n
C27 PWR_PM PWR_NM 10n
VPNS PN_SRC PGND -5
RNSRC PN_SRC PNRE 20m
LPN PNRE PWR_N 0.2u
RPN PWR_N PWR_NM 50m
C6 PWR_NM PGND 470u
C8 PWR_NM PGND 100n

* E/S held in the OFF range; optical details are outside this single fault.
VES ES PWR_N 0.6
RUNIT OPA_OUT OPA_N 1m
RILIM ILIM PWR_N 57.6k
XU1 OPA_P OPA_N ILIM PWR_N PWR_P OPA_OUT ES OPA548
RLOAD OPA_OUT SNUB 4.7
CLOAD SNUB PGND 47n
RLEAK SNUB PGND 1G

.control
set noaskquit
echo "H07 U4+ series fault; RAPS values; J2=+/-10, J1=+/-5, E/S OFF"
foreach rfv 3.5586m 1 10
  alterparam RFAULT=$rfv
  reset
  tran 0.05u 0.5m 0 0.05u
  meas tran TP8_MAX MAX v(TP8) from=0.25m to=0.5m
  meas tran TP8_MIN MIN v(TP8) from=0.25m to=0.5m
  meas tran OUT_MAX MAX v(OPA_OUT) from=0.25m to=0.5m
  meas tran OUT_MIN MIN v(OPA_OUT) from=0.25m to=0.5m
  meas tran AP_MAX MAX v(APU4) from=0.25m to=0.5m
  meas tran AP_MIN MIN v(APU4) from=0.25m to=0.5m
  meas tran AN_MAX MAX v(ANU4) from=0.25m to=0.5m
  meas tran AN_MIN MIN v(ANU4) from=0.25m to=0.5m
  meas tran TP8_FINAL FIND v(TP8) AT=0.5m
  meas tran AP_FINAL FIND v(APU4) AT=0.5m
  let TP8_PP=TP8_MAX-TP8_MIN
  let OUT_PP=OUT_MAX-OUT_MIN
  let AP_PP=AP_MAX-AP_MIN
  let AN_PP=AN_MAX-AN_MIN
  echo "CASE RAPS=$rfv"
  print TP8_PP OUT_PP AP_PP AN_PP TP8_FINAL AP_FINAL
  wrdata results/H07_U4rail_last_case.dat time v(TP8) v(U4O) v(OPA_OUT) v(APU4) v(ANU4)
end
quit
.endc
.end
